US07968573B2
To a mixture of 18 g of 4-ethoxy-1,1,1-trifluoro-3-butene-2-one and 50 ml of methanol was added 5.7 ml of methylhydrazine, and the mixture was heated to reflux for 4 hours. The reaction mixture was allowed to cool to room temperature, concentrated under reduced pressure, and subjected to distillation under reduced pressure (60° C./15 mmHg) to obtain 8.71 g of 1-methyl-3-trifluoromethyl-1H-pyrazole of the formula:

reactant | 4-ethoxy-1,1,1-trifluoro-3-butene-2-one | 18 g | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | methylhydrazine | 5.7 ml | CNN | CH6N2
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-3-trifluoromethyl-1H-pyrazole | 8.71 g | CN1N=C(C=C1)C(F)(F)F | C5H5F3N2
